US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester
The title compound (2.89 g, 86%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid (1.74 g, 5 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 10.65 (s, 1H), 8.80 (brs, 0.6H), 8.68 (brs, 0.4H), 8.19 (d, 1H), 8.11 (d, 1H), 7.81 (d, 0.6H), 7.75 (d, 0.4H), 7.62˜7.54 (m, 2H), 6.92 (t, 1H), 6.90 (s, 1H), 6.82 (s, 2H), 5.93 (s, 2H), 5.00 (s, 2H), 4.72 (s, 1.2H), 4.54 (s, 0.8H), 4.26 (s, 0.8H),4.01 (q, 0.8H), 4.00 (s, 1.2H), 4.96 (q, 1.2H), 3.51 (t, 1.2H), 3.35˜3.30 (m, 2H), 3.13 (t, 0.8H), 1.12 (t, 1.2H), 1.06 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid | 5 mmol, 1.74 g | C(C1=CC=2OCOC2C=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C15H13N3O7
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester | 2.89 g, 86% | C(C)OC(CN(C(CN1C(=O)N=C(NC(=O)OCC2=CC=3OCOC3C=C2)C=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C28H28N6O10S2
